US07074794B2
Piperazine (3.22 g) was dissolved in DMF (830 mL), and 4-chloro-2-phenylquinazoline (3 g) was added thereto. The mixture was stirred at room temperature for 6 hr. The reaction mixture was concentrated under reduced pressure, water and chloroform were added to the residue and an insoluble material was filtered off. The organic layer of the filtrate was separated and extracted with 1 mol/L hydrochloric acid. The aqueous layer was basified with aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The extract was concentrated under reduced pressure to give 1-(2-phenyl-4-quinazolinyl)piperazine (2.27 g) as a white solid.

reactant | Piperazine | 3.22 g | N1CCNCC1 | C4H10N2
reactant | 4-chloro-2-phenylquinazoline | 3 g | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | DMF | 830 mL | CN(C)C=O | C3H7NO
product | 1-(2-phenyl-4-quinazolinyl)piperazine | 2.27 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1CCNCC1 | C18H18N4
